US08314239B2
A solution of 6-bromo-3-nitro-2-(trifluoromethyl)pyridine (300 mg, 1.107 mmol), 7-azabicyclo[2.2.1]heptane hydrochloride (177.4 mg, 1.328 mmol) and triethylamine (224.0 mg, 308.5 μL, 2.214 mmol) in acetonitrile (3 mL) was heated at 80° C. overnight. The reaction was cooled to room temperature and quenched with water. The resulting precipitate was filtered, washed with water and dried under vacuum to provide 7-[5-nitro-6-(trifluoromethyl)-2-pyridyl]-7-azabicyclo[2.2.1]heptane (300 mg, 94% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 8.27 (d, J=9.2 Hz, 1H), 7.20 (d, J=9.3 Hz, 1H), 4.71 (s, 2H), 1.71 (d, J=7.7 Hz, 4H), 1.55 (d, J=6.9 Hz, 4H).

reactant | 6-bromo-3-nitro-2-(trifluoromethyl)pyridine | 1.107 mmol, 300 mg | BrC1=CC=C(C(=N1)C(F)(F)F)[N+](=O)[O-] | C6H2BrF3N2O2
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | 1.328 mmol, 177.4 mg | Cl.C12CCC(CC1)N2
reactant | triethylamine | 2.214 mmol, 308.5 μL, 224.0 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 7-[5-nitro-6-(trifluoromethyl)-2-pyridyl]-7-azabicyclo[2.2.1]heptane | 300 mg, 94% yield | [N+](=O)([O-])C=1C=CC(=NC1C(F)(F)F)N1C2CCC1CC2 | C12H12F3N3O2
